US07034018B2
2-[(3-Bromo-4-fluoro-phenyl)-pyrrolidin-1-yl-methyl]-1-(4-fluoro-phenyl)-1H-pyrrole
The preparation was carried out in accordance with general synthesis instructions 4 from 1-(4-fluoro-phenyl)-1H-pyrrole and 1-(3-bromo-4-fluoro-benzylidene)-pyrrolidinium chloride, which had been prepared in accordance with example 4 from 3-bromo-4-fluorobenzaldehyde and pyrrolidine.

reactant | 1-(4-fluoro-phenyl)-1H-pyrrole | FC1=CC=C(C=C1)N1C=CC=C1 | C10H8FN
reactant | 1-(3-bromo-4-fluoro-benzylidene)-pyrrolidinium chloride | [Cl-].BrC=1C=C(C=[N+]2CCCC2)C=CC1F
reactant | 3-bromo-4-fluorobenzaldehyde | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-[(3-Bromo-4-fluoro-phenyl)-pyrrolidin-1-yl-methyl]-1-(4-fluoro-phenyl)-1H-pyrrole | BrC=1C=C(C=CC1F)C(C=1N(C=CC1)C1=CC=C(C=C1)F)N1CCCC1 | C21H19BrF2N2
